US08669234B2
A mixture of 2-{6-[4′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-4-yl]-1H-benzoimidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester (147 mg, 0.26 mmol), 2-[5-bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (116 mg, 0.26 mmol), tetrakis(triphenylphosphine)palladium (30 mg, 0.026 mmol), Pd(dppf)Cl2 (21 mg, 0.026 mmol) and potassium carbonate (72 mg, 0.52 mmol) in 3 ml 1,2-dimethoxyethane and 1 mL water was heated to 90° C. for 2.5 hours. The reaction mixture was cooled and dissolved in ethyl acetate and washed with 5% lithium chloride aqueous solution. The organic layer was dried (MgSO4), concentrated and purified by preparative reverse phase HPLC (GEMINI, 5 to 100% ACN/H2O+0.1% TFA). Product was lyophilized to give 2-(6-{4′-[2-(1-Boc-pyrrolidin-2-yl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazol-4-yl]-biphenyl-4-yl}-1H-benzoimidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (52 mg, yield 25%); LCMS-ESI+: calc'd for C46H60N6O5Si: 805.09. Found: 805.1 (M+H+).

reactant | 2-{6-[4′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-4-yl]-1H-benzoimidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.26 mmol, 147 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC2=C(N1)C=C(C=C2)C2=CC=C(C=C2)C2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C | C34H40BN3O4
reactant | 2-[5-bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.26 mmol, 116 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1N(C(=CN1)Br)COCC[Si](C)(C)C | C18H32BrN3O3Si
reactant | potassium carbonate | 0.52 mmol, 72 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 3 ml | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.026 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(dppf)Cl2 | 0.026 mmol, 21 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(6-{4′-[2-(1-Boc-pyrrolidin-2-yl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazol-4-yl]-biphenyl-4-yl}-1H-benzoimidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 52 mg, yield 25% | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC2=C(N1)C=C(C=C2)C2=CC=C(C=C2)C2=CC=C(C=C2)C=2N(C(=NC2)C2N(CCC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C | C46H60N6O5Si
